US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methylpropyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-hydroxy-5-{[(1S)-1-methylpropyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (116 mg, 0.4 mmol) and the 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine (111 mg, 0.48 mmol) in acetonitrile (2 mL) containing potassium carbonate (111 mg, 0.8 mmol) was heated with stirring in the microwave reactor for 6 hours at 160° C. The reaction mixture was filtered and the filtrate evaporated to dryness under reduced pressure and purified by chromatography on silica, eluting with 50-100% ethyl acetate in hexane, to give the required product (177 mg).

reactant | 3-hydroxy-5-{[(1S)-1-methylpropyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.4 mmol, 116 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CC)C | C15H19N3O3
reactant | 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine | 0.48 mmol, 111 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)Cl)Cl | C9H8Cl2N2O
reactant | potassium carbonate | 0.8 mmol, 111 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methylpropyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 177 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CC)C)Cl | C24H26ClN5O4
